US08026261B2
D. Preparation of 5-Hydroxy-1-methyl-2-(2,2,2-trifluoro-ethyl)-1H-pyridin-4-one
In a 500-mL reaction vessel was placed methanesulfonic acid 1-(5-benzyloxy-1-methyl-4-oxo-1,4-dihydro-pyridin-2-yl)-2,2,2-trifluoro-ethyl ester (1.80 g, 4.60 mmol), and ethanol (120 mL). The mixture was sonicated to give a clear solution. To the solution was added 1.80 g of Pd/C (10 wt. %, dry basis, on activated carbon, wet, Degussa type E101 NE/W). Hydrogenation was carried out under a hydrogen atmosphere set at a pressure of 50 psi. The reaction was completed within 90 min. The reaction mixture was diluted with methanol (120 mL), and the resulting mixture was sonicated for 10 min. The reaction mixture was then filtered through a short hydrochloric acid pre-treated CELITE™ bed. The filtrate was collected, and concentrated in vacuo to a volume of about 100 mL. To the resulting solution was added morpholine polymer-bound beads (1% cross-linked w/DVB, 200-400 mesh, 2.5-4.0 mmol N/g, 5.2 g), and the mixture was vortexed for 3 h. The morpholine beads were removed by filtration. Upon partial concentration in vacuo, a solid separated and the first crop of the title compound was obtained as the free base (0.74 g, 77% yield, HPLC Method 1 (Example 24); RT=8.2 min, HPLC purity (peak percent area): 98.7% at x=280 nm). 1H NMR (CD3OD) δ ppm: 7.55 (s, 1H), 6.52 (s, 1H), 3.77 (q, J=10 Hz, 2H), 3.78 (s, 3H); MS-ESI (m/z): 208.2 ([M+1]+, 100%), 188.2, 139.2.

reactant | methanesulfonic acid 1-(5-benzyloxy-1-methyl-4-oxo-1,4-dihydro-pyridin-2-yl)-2,2,2-trifluoro-ethyl ester | 4.60 mmol, 1.80 g | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C)C(C(F)(F)F)OS(=O)(=O)C)=O | C16H16F3NO5S
reactant | ethanol | 120 mL | C(C)O | C2H6O
solvent | methanol | 120 mL | CO | CH4O
catalyst | Pd/C | 1.80 g | [Pd] | Pd
product | 5-Hydroxy-1-methyl-2-(2,2,2-trifluoro-ethyl)-1H-pyridin-4-one | 77% yield | OC=1C(C=C(N(C1)C)CC(F)(F)F)=O | C8H8F3NO2
